US05189023
2-(Acetylamino)ethyl 3-phenylpropylphosphinate
To a solution of 0.31 g (1.5 mmol) of 1,3-dicyclohexylcarbodiimide in tetrahydrofuran (3 ml) is added 0.28 g (1.5 mmol) of 3-phenylpropylphosphinic acid in tetrahydrofuran (1 ml). The resulting suspension is stirred for 10 minutes at room temperature. N-acetyl ethanolamine (0.10 g, 1.0 mol) is then added, followed by 18 mg or 4-dimethylaminopyridine. The mixture is stirred for 2 hours. The solvent is evaporated under reduced pressure, and the residue is stirred with ethyl acetate (20 ml). The resulting suspension is filtered. The filtrate is washed with 5% potassium hydrogen sulfate (8 ml), saturated sodium bicarbonate (2×5 ml), and brine (5 ml), and evaporated to give 0.12 g of a colorless oil.

reactant | 1,3-dicyclohexylcarbodiimide | 1.5 mmol, 0.31 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-phenylpropylphosphinic acid | 1.5 mmol, 0.28 g | C1(=CC=CC=C1)CCCP(O)=O | C9H13O2P
reactant | N-acetyl ethanolamine | 1.0 mol, 0.10 g | C(C)(=O)NCCO | C4H9NO2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(Acetylamino)ethyl 3-phenylpropylphosphinate | 0.12 g | C1(=CC=CC=C1)CCCP(OCCNC(C)=O)=O | C13H20NO3P
